US04746602
Synthesis of 9-Chloro-7-[2-(2,4-di-t-amylphenoxy)butanoylamino]-6-hydroxy-1,5-benzodiazepin-2,4-dione (Coupler 3)
20 g of 2-amino-4-chloro-5-nitrophenol was dispersed in 150 ml of acetonitrile, and 37.7 g of 2-(2,4-di-t-amylphenoxy)butanoyl chloride was added thereto dropwise under refluxing. After stirring while refluxing for 1 hour, the reaction mixture was cooled to room temperature, and the crystals thus formed were collected by filtration, washed with acetonitrile, and dried to obtain crystals weighing 49.5 g. A mixture of 49 g of the resulting crystals, 28 g of reduced iron, 2.7 g of ammonium chloride, 50 ml of water, and 500 ml of isopropanol was stirred while refluxing for 1 hour. The iron powder was removed by filtration, and the filtrate was cooled to precipitate crystals, which were then collected by filtration and dried to provide 42.4 g of the desired compound.

reactant | 2-amino-4-chloro-5-nitrophenol | 20 g | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | 2-(2,4-di-t-amylphenoxy)butanoyl chloride | 37.7 g | C(C)(C)(CC)C1=C(OC(C(=O)Cl)CC)C=CC(=C1)C(C)(C)CC | C20H31ClO2
reactant | ammonium chloride | 2.7 g | [Cl-].[NH4+]
reactant | water | 50 ml | O | H2O
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | isopropanol | 500 ml | C(C)(C)O | C3H8O
product | 9-Chloro-7-[2-(2,4-di-t-amylphenoxy)butanoylamino]-6-hydroxy-1,5-benzodiazepin-2,4-dione | 42.4 g | ClC1=CC(=C(C=2C1=NC(CC(N2)=O)=O)O)NC(C(CC)OC2=C(C=C(C=C2)C(C)(C)CC)C(C)(C)CC)=O | C29H36ClN3O5
